US07459562B2
A solution of N-(4-(2-aminopyridin-4-yloxy)-2-fluorophenyl)pivalamide (70 mg, 0.23 mmol) in 3 mL of MeOH was added 2 mL of 6 N HCl. The mixture was then heated at reflux for 48 h. After cooling down, the solvent was removed under reduced pressure and the residue was purified by solid extraction (Waters Oasis®MCX extraction cartridge) to give 4-(4-amino-3-fluorophenoxy)pyridin-2-amine (27 mg, 54% yield). MS(ESI+): m/z 220.21 (M+H)+.

reactant | N-(4-(2-aminopyridin-4-yloxy)-2-fluorophenyl)pivalamide | 0.23 mmol, 70 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(C(C)(C)C)=O)F | C16H18FN3O2
reactant | HCl | 6 N, 2 mL | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | 4-(4-amino-3-fluorophenoxy)pyridin-2-amine | 27 mg, 54% yield | NC1=C(C=C(OC2=CC(=NC=C2)N)C=C1)F | C11H10FN3O
